US05348944
Dissolve 1 -benzyloxycarbonyl-5-hydroxy-(S)-pipecolic acid (prepared from 5-hydroxy-(S)-pipecolic acid in 2N sodium hydroxide solution treated with benzylchlorformate in diethyl ether) in acetone and treat with Jones reagent to obtain 1-benzyloxycarbonyl-5-keto-(S)-pipecolic acid. Then esterify in methanol to give the respective methyl ester.

reactant | 1 -benzyloxycarbonyl-5-hydroxy-(S)-pipecolic acid | 2N | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)O)CCC(C1)O | C14H17NO5
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | CC(=O)C | C3H6O
product | 1-benzyloxycarbonyl-5-keto-(S)-pipecolic acid | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)O)CCC(C1)=O | C14H15NO5
